US08003785B2
To a mixture of 0.0606 g (0.134 mmole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2,5-difluoro-benzoic acid (I-232) and 4 mL of dimethylformamide was added 0.0292 g (0.216 mmole) of 1-hydroxybenzotriazole, 0.0784 g (0.207 mmole) of 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate and 0.1083 g (0.804 mmole) of diisopropylethylamine. The mixture was stirred for 10 minutes, then 0.0174 g (0.198 mmole) of N,N-dimethylethylenediamine was added. The reaction mixture was stirred for 2 hours and then concentrated under reduced pressure. The residue was dissolved in 80 mL of ethyl acetate and washed three times with 10 mL of 1M sodium hydroxide, twice with 15 mL of brine, dried, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 95:5-80:20) gave 0.0589 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(2-dimethylamino-ethyl)-2,5-difluoro-benzamide (I-236) as a white solid.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2,5-difluoro-benzoic acid | 0.134 mmole, 0.0606 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)O)C=C2F)F | C20H19F4N5O3
reactant | 1-hydroxybenzotriazole | 0.216 mmole, 0.0292 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate | 0.207 mmole, 0.0784 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=C1C=CC=C2)[O-])N(C)C
reactant | diisopropylethylamine | 0.804 mmole, 0.1083 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N,N-dimethylethylenediamine | 0.198 mmole, 0.0174 g | CN(CCN)C | C4H12N2
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(2-dimethylamino-ethyl)-2,5-difluoro-benzamide | 0.0589 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)NCCN(C)C)C=C2F)F | C24H29F4N7O2
